US05472970
The preferred conditions are to dissolve 1 mole of alcohol (II) and 1.25 to 1.75 mole of ester (V) in which R4 is methyl in 25 to 35 parts by weight of toluene, referred to the quantity of (II) used. The solution is heated to 65°-75° C., 0.025 to 0.05 mole of sodium methylate is added, and the toluene-methanol azeotrope formed is distilled slowly for 1 to 2 hours. A further 0.0125 to 0.025 mole of sodium methylate is added and the solution is distilled for 30 minutes to 1 hour; this last operation is repeated once more. The products of the reaction are then isolated and purified by the aforesaid techniques.

reactant | sodium methylate | 0.025 to 0.05 mole | C[O-].[Na+]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | toluene-methanol | C=1(C(=CC=CC1)CO)C | C8H10O
